US08669266B2
(viii) 4-[(S)-4-Carboxy-2-({4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-naphthalene-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid butyl ester
To a solution of 1.5 g 4-[(S)-4-tert-Butoxycarbonyl-2-({4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-naphthalene-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid butyl ester in 10 ml dichloromethane were added 1.1 g TFA. After 3 h stirring at RT the solvents were removed and the residue was codistilled twice with toluene. The crude product was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). Yield: 970 mg MS (ES+): m/e=708.

reactant | 4-[(S)-4-tert-Butoxycarbonyl-2-({4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-naphthalene-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid butyl ester | 1.5 g | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)=O | C41H57N5O9
reactant | TFA | 1.1 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[(S)-4-Carboxy-2-({4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-naphthalene-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=CC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)=O | C37H49N5O9
